data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[cH:1]1[c:7]([N+:17](=[O:10])[O-:23])[cH:2][c:8]([N+:18](=[O:11])[O-:22])[cH:3][c:9]1[N+:19](=[O:12])[O-:24].[cH:4]1[cH:13][c:16]([S-:21])[cH:14][cH:5][c:15]1[O:20][CH3:6]>>[CH:1]1([S:21][c:16]2[cH:13][cH:4][c:15]([O:20][CH3:6])[cH:5][cH:14]2)[C:7](=[N+:17]([O-:10])[O-:23])[CH:2]=[C:8]([N+:18](=[O:11])[O-:22])[CH:3]=[C:9]1[N+:19](=[O:12])[O-:24]", "epd": [["LP-/Sigma+", [21], [21, 1]], ["Pi-/Pi+", [1, 7], [7, 17]], ["Pi-/LP+", [17, 10], [10]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[N:1]([CH2:2][c:12]1[cH:13][cH:10][cH:16][cH:11][cH:14]1)([C:29]#[C:17][CH2:3][CH3:15])[S:30](=[O:20])(=[O:21])[c:22]1[cH:8][cH:27][c:35]([CH3:36])[cH:28][cH:9]1.[cH:4]1[c:18]([CH+:39][c:19]2[cH:5][c:25]([F:33])[cH:38][c:26]([F:34])[cH:6]2)[cH:7][c:23]([F:31])[cH:37][c:24]1[F:32]>>[N+:1]([CH2:2][c:12]1[cH:13][cH:10][cH:16][cH:11][cH:14]1)(=[C:29]=[C:17]([CH2:3][CH3:15])[CH:39]([c:18]1[cH:4][c:24]([F:32])[cH:37][c:23]([F:31])[cH:7]1)[c:19]1[cH:5][c:25]([F:33])[cH:38][c:26]([F:34])[cH:6]1)[S:30](=[O:20])(=[O:21])[c:22]1[cH:8][cH:27][c:35]([CH3:36])[cH:28][cH:9]1", "epd": [["LP-/Pi+", [1], [29, 1]], ["Pi-/Sigma+", [17, 29], [17, 39]]]}
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:4]1[c:10]([CH+:26][c:11]2[cH:5][c:14]([F:18])[cH:25][c:15]([F:19])[cH:6]2)[cH:7][c:12]([F:16])[cH:24][c:13]1[F:17].[nH:1]1[c:2]([O-:8])[cH:21][c:9](=[O:20])[nH:22][c:3]1=[O:23]>>[NH:1]1[C:2](=[O:8])[CH:21]([CH:26]([c:10]2[cH:4][c:13]([F:17])[cH:24][c:12]([F:16])[cH:7]2)[c:11]2[cH:5][c:14]([F:18])[cH:25][c:15]([F:19])[cH:6]2)[C:9](=[O:20])[NH:22][C:3]1=[O:23]", "epd": [["LP-/Pi+", [8], [2, 8]], ["Pi-/Sigma+", [21, 2], [21, 26]]]}
{"reaction_name": "Stevens rearrangement of sulfonium ylides", "rsmi": "[cH:1]1[cH:5][cH:9][cH:6][cH:2][c:7]1[CH2:3][S+:4]([CH3:8])[CH2-:10]>>[cH:1]1[cH:5][cH:9][cH:6][cH:2][c:7]1[CH2:3][CH2:10][S:4][CH3:8]", "epd": [["LP-/Sigma+", [10], [3, 10]], ["Sigma-/LP+", [3, 4], [4]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[Li+:17].[c:1]1([CH3:32])[o:21][c:7]([B-:26]23[O:3][CH2:13][C:11]([CH3:9])([CH2:14][O:4]2)[CH2:15][O:5]3)[cH:12][cH:29]1.[cH:2]1[cH:6][cH:23][cH:10][c:16]2[c:8]1[N+:28]([CH3:19])=[CH:22][C:20]2=[CH:18][c:27]1[cH:24][cH:30][cH:33][cH:31][cH:25]1>>[Li+:17].[O:3]1[CH2:13][C:11]2([CH3:9])[CH2:14][O:4][B:26]1[O:5][CH2:15]2.[c:1]1([CH3:32])[o:21][c:7]([CH:18]([c:20]2[c:16]3[c:8]([cH:2][cH:6][cH:23][cH:10]3)[n:28]([CH3:19])[cH:22]2)[c:27]2[cH:24][cH:30][cH:33][cH:31][cH:25]2)[cH:12][cH:29]1", "epd": [["Sigma-/Sigma+", [7, 26], [7, 18]], ["Pi-/Pi+", [18, 20], [20, 22]], ["Pi-/LP+", [22, 28], [28]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[O-:5][c:25]1[cH:17][c:12](=[O:19])[n:26]([CH3:8])[c:22](=[O:7])[n:27]1[CH3:20].[cH:1]1[cH:2][cH:14][cH:4][c:6]2[c:3]1[N+:21]([CH3:10])=[CH:13][C:11]2=[CH:9][c:18]1[cH:15][cH:23][cH:28][cH:24][cH:16]1>>[cH:1]1[cH:2][cH:14][cH:4][c:6]2[c:3]1[n:21]([CH3:10])[cH:13][c:11]2[CH:9]([CH:17]1[C:12](=[O:19])[N:26]([CH3:8])[C:22](=[O:7])[N:27]([CH3:20])[C:25]1=[O:5])[c:18]1[cH:15][cH:23][cH:28][cH:24][cH:16]1", "epd": [["LP-/Pi+", [5], [25, 5]], ["Pi-/Sigma+", [17, 25], [17, 9]], ["Pi-/Pi+", [9, 11], [11, 13]], ["Pi-/LP+", [13, 21], [21]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[c:2]1([O:7][CH3:15])[c:16]([B-:23]([F:3])([F:4])[F:5])[s:27][cH:11][cH:26]1.[cH:1]1[cH:6][cH:18][cH:9][c:10]2[c:8]1[N+:22]([CH3:13])=[CH:17][C:14]2=[CH:12][c:21]1[cH:19][cH:24][cH:28][cH:25][cH:20]1>>[cH:1]1[cH:6][cH:18][cH:9][c:10]2[c:8]1[n:22]([CH3:13])[cH:17][c:14]2[CH:12]([CH:11]1[CH:26]=[C:2]([O:7][CH3:15])[C:16]([B-:23]([F:3])([F:4])[F:5])=[S+:27]1)[c:21]1[cH:19][cH:24][cH:28][cH:25][cH:20]1", "epd": [["LP-/Pi+", [27], [16, 27]], ["Pi-/Pi+", [2, 16], [26, 2]], ["Pi-/Sigma+", [11, 26], [11, 12]], ["Pi-/Pi+", [12, 14], [14, 17]], ["Pi-/LP+", [17, 22], [22]]]}
{"reaction_name": "Fragmentation of tetrahedral intermediates", "rsmi": "[CH3:1][C:2]([O-:4])([O:5][CH3:3])[OH:6]>>[CH3:1][C:2](=[O:4])[O:5][CH3:3].[OH-:6]", "epd": [["LP-/Pi+", [4], [2, 4]], ["Sigma-/LP+", [2, 6], [6]]]}
{"reaction_name": "Spiroketal-forming addition", "rsmi": "[O:1]=[C:2]1[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1.[O:8]([H:10])[CH2:11][CH2:12][O:9][H:13]>>[C:2]12([O:8][CH2:11][CH2:12][O:9]2)[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1.[O:1]([H:10])[H:13]", "epd": [["Sigma-/Sigma+", [1, 2], [1, 10]], ["Pi-/Sigma+", [1, 2], [1, 13]], ["Sigma-/Sigma+", [8, 10], [2, 8]], ["Sigma-/Sigma+", [9, 13], [2, 9]]]}
